US09421237B2
N-pyrazineformyl-L-phenylalanine Methyl Ester
The product L-phenylalanine methyl ester hydrochloride of Preparation example 1 (1.12 g, 5.2 mmol) was dissolved in 20 ml of THF, and neutralized with N-methyl morpholine (NMM) (0.7 ml, 6.2 mmol), then cooled with an ice bath for later use. Pyrazinecarboxylic acid (0.65 g, 5.2 mmol) was added to another reaction flask, dissolved with 20 ml of THF, cooled with an ice water bath, dicyclohexylcarbodiimide (DCC) (1.07 g, 5.2 mmol) and HOBt (0.84 g, 6.2 mmol) were added at 0° C. and reacted for 40 min at 0° C., to which the solution of L-phenylalanine methyl ester hydrochloride in THF prepared, cooled and neutralized according to the above was added, the reaction was monitored by TLC and completed after 2 h, insoluble N,N′-dicyclohexylurea (DCU) was removed by filtration, to the filtrate was added 150 ml of ethyl acetate, washed with 5% sodium bicarbonate solution, 10% citric acid solution, 5% sodium bicarbonate solution, saturated salt solution (2×20 ml) successively. The ethyl acetate layer was dried over anhydrous sodium sulfate, filtered, and evaporated the solvent under reduced pressure, 1.37 g of white solid was obtained with a yield of 98%, m.p.: 152-155° C. 1H-NMR (CDCl3, 300 MHz): δ 3.26 (—CH2, m, 2H), 3.75 (—CH3, s, 3H), 5.09 (—CH, m, 1H), 7.15˜7.32 (-Ph, m, 5H), 8.23 (—CONH, d, 1H), 8.52 (-Pyz, d, 1H), 8.74 (-Pyz, d, 1H), 9.37 (-Pyz, s, 1H).

reactant | L-phenylalanine methyl ester hydrochloride | Cl.COC([C@@H](N)CC1=CC=CC=C1)=O
reactant | N-methyl morpholine | 6.2 mmol, 0.7 ml | CN1CCOCC1 | C5H11NO
reactant | Pyrazinecarboxylic acid | 5.2 mmol, 0.65 g | N1=C(C=NC=C1)C(=O)O | C5H4N2O2
reactant | dicyclohexylcarbodiimide | 5.2 mmol, 1.07 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | HOBt | 6.2 mmol, 0.84 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | N-pyrazineformyl-L-phenylalanine Methyl Ester | 1.37 g, yield of 98% | COC([C@@H](NC(=O)C1=NC=CN=C1)CC1=CC=CC=C1)=O | C15H15N3O3
